US09227976B2
Step 1: Ethyl 2-(5-acetamido-3-phenyl-pyrazol-1-yl)acetate
Acetic anhydride (12.7 mL, 134.8 mmol) was added dropwise to a solution of ethyl 2-(5-amino-3-phenyl-pyrazol-1-yl)acetate (31.5 g, 128.4 mmol) in pyridine (200 mL) at 0° C. under an atmosphere of nitrogen. Upon complete addition, the reaction mixture was warmed to room temperature and stirred for 16 h. The reaction mixture was concentrated in vacuo. The residue was diluted in CH2Cl2 (250 mL). The organic phase was washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated from diethyl ether, filtered and dried to provide the title compound as a white solid (34.81 g).

reactant | Acetic anhydride | 134.8 mmol, 12.7 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-(5-amino-3-phenyl-pyrazol-1-yl)acetate | 128.4 mmol, 31.5 g | NC1=CC(=NN1CC(=O)OCC)C1=CC=CC=C1 | C13H15N3O2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(5-acetamido-3-phenyl-pyrazol-1-yl)acetate | 34.81 g | C(C)(=O)NC1=CC(=NN1CC(=O)OCC)C1=CC=CC=C1 | C15H17N3O3
